US06545009B1
In the same manner as in Example 28, methyl 4-thiocarbamoylbenzoate was reacted with 4-trifluoromethylphenacyl bromide to obtain methyl 4-[4-(4-trifluoromethylphenyl)-2-thiazoly]benzoate. The product was recrystallized from ethanol. Yield: 61%. Colorless prisms. Melting point: 156 to 158° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 4-trifluoromethylphenacyl bromide | FC(C1=CC=C(C(CBr)=O)C=C1)(F)F | C9H6BrF3O
product | methyl 4-[4-(4-trifluoromethylphenyl)-2-thiazoly]benzoate | Yield: 61% | FC(C1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1)(F)F | C18H12F3NO2S
